US05260316
2-[3-(4-Fluorophenyl)-propyl]-6-[2-(N-acetyloxy-N-acetylamino)-ethoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline (2.0 g) is dissolved in 40 ml of an isopropanol/water mixture (1:1) and treated with 0.94 g (25 mmol) of lithium hydroxide monohydrate for 30 minutes at room temperature. The mixture is diluted with ether and the organic phase is removed. The aqueous layer is brought to pH of approximately 3 with 2N HCl, and extracted with ether. The combined acidic extracts are dried (MgSO4) and evaporated to dryness to yield 2-[3-(4-fluorophenyl)-propyl]-6-[2-(N-hydroxy-N-acetylamino)-ethoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline.

reactant | 2-[3-(4-Fluorophenyl)-propyl]-6-[2-(N-acetyloxy-N-acetylamino)-ethoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline | 2.0 g | FC1=CC=C(C=C1)CCCN1C(C2=CC=C(C=C2CC1)OCCN(C(C)=O)OC(C)=O)=O | C24H27FN2O5
reactant | lithium hydroxide monohydrate | 25 mmol, 0.94 g | O.[OH-].[Li+]
solvent | isopropanol water | 40 ml | C(C)(C)O.O
solvent | ether | CCOCC | C4H10O
product | 2-[3-(4-fluorophenyl)-propyl]-6-[2-(N-hydroxy-N-acetylamino)-ethoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline | FC1=CC=C(C=C1)CCCN1C(C2=CC=C(C=C2CC1)OCCN(C(C)=O)O)=O | C22H25FN2O4
